US05359090
Preparation of 2-(p-chlorophenyl)-1-(ethoxymethyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile
A stirred mixture of 2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile (13.5 g, 0.05 mole), diethoxymethane (7.8 g, 0.075 mole) and dimethylformamide (5.5 g, 0.075 mole) in acetonitrile, under N2, is treated with phosphorous oxychloride (11.5 g, 0.075 mole) over a 0.25 hour period at 39°-45° C., heated at 39°-45° C. for 0.75 hour and treated dropwise with triethylmine (10.1 g, 0.10 mole) at 45°-55° C. over a 0.5 hour period. The reaction mixture is diluted with water, stirred for 16 hours at 25° C. and concentrated in vacuo to give a crude product. The crude material is stirred at reflux temperature with a mixture of toluene and dilute aqueous NaOH and cooled to room temperature. The phases are separated and the organic phase is concentrated in vacuo to give the title product as a solid, mp 83°-84.5° C., 13.1 g, 80 % yield, identified by mass spectral analysis.

reactant | 2-(p-chlorophenyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 0.05 mole, 13.5 g | ClC1=CC=C(C=C1)C=1NC(=CC1C#N)C(F)(F)F | C12H6ClF3N2
reactant | diethoxymethane | 0.075 mole, 7.8 g | C(C)OCOCC | C5H12O2
reactant | dimethylformamide | 0.075 mole, 5.5 g | CN(C=O)C | C3H7NO
reactant | phosphorous oxychloride | 0.075 mole, 11.5 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | NaOH | [OH-].[Na+]
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-(p-chlorophenyl)-1-(ethoxymethyl)-5-(trifluoromethyl)pyrrole-3-carbonitrile | 80 % yield | ClC1=CC=C(C=C1)C=1N(C(=CC1C#N)C(F)(F)F)COCC | C15H12ClF3N2O
